US06300368B1
2-(Isopropylamino)ethanol (24,0 g) solution in dimethylformamide (70 ml) was added with potassium tert-butoxide (21.9 g) in an ice bathing. After being stirred for 1 hour at room temperature, the reaction mixture was cooled down to 5° C. and added drop-wise with 2′-fluoro-5′-nitromethanesulfonanilide (21.8 g) in dimethylformamide (30 ml). After being stirred for 3 hours at room temperature, the reaction mixture was added into ethyl acetate (500 ml) and solids formed were collected by filtration and washed with ethyl acetate (100 ml). Solids obtained were dissolved into water (200 ml) and the solution was adjusted to pH=7 with 2N HCl . Resultant crystals were collected by filtration, washed with water, and dried under vacuum to obtain 2′-[2-(isopropylamino)ethoxy]-5′-nitromethanesulfonanilide (26.1 g) as white crystal.

reactant | 2-(Isopropylamino)ethanol | 24,0 g | C(C)(C)NCCO | C5H13NO
reactant | potassium tert-butoxide | 21.9 g | CC(C)([O-])C.[K+]
reactant | 2′-fluoro-5′-nitromethanesulfonanilide | 21.8 g | FC1=C(NS(=O)(=O)C)C=C(C=C1)[N+](=O)[O-] | C7H7FN2O4S
reactant | HCl | 2N | Cl | ClH
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 2′-[2-(isopropylamino)ethoxy]-5′-nitromethanesulfonanilide | 26.1 g | C(C)(C)NCCOC1=C(NS(=O)(=O)C)C=C(C=C1)[N+](=O)[O-] | C12H19N3O5S
